US04096267
Step F: (1-Oxo-2,3-diphenyl-2-methyl-6,7-dichloro-5-indanyloxy)acetic acid
A stirred mixture of 2,3-diphenyl-2-methyl-5-hydroxy-6,7-dichloro-1-indanone (2.24 g., 0.00585 mole), potassium carbonate (1.62 g., 0.0117 mole) and ethyl bromoacetate (1.96 g., 0.0117 mole) in dimethylformamide (100 ml.) is warmed at 55°-60° C. for 3 hours, then treated with water (100 ml.)-10N sodium hydroxide solution (5 ml., 0.05 mole) and heated at 90° C. for 1.5 hours. The reaction mixture is added slowly to water (1 l.) -12N hydrochloric acid (10 ml.) to precipitate 1.14 g. of (1-oxo-2,3-diphenyl-2-methyl-6,7-dichloro-5-indanyloxy)acetic acid which melts at 203°-205° C. after crystallization from nitromethane.

reactant | 2,3-diphenyl-2-methyl-5-hydroxy-6,7-dichloro-1-indanone | 0.00585 mole, 2.24 g | C1(=CC=CC=C1)C1(C(C2=C(C(=C(C=C2C1C1=CC=CC=C1)O)Cl)Cl)=O)C | C22H16Cl2O2
reactant | potassium carbonate | 0.0117 mole, 1.62 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 0.0117 mole, 1.96 g | BrCC(=O)OCC | C4H7BrO2
reactant | sodium hydroxide | 0.05 mole, 5 ml | [OH-].[Na+]
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | -12N, 1 l | O | H2O
solvent | water | -10N, 100 ml | O | H2O
product | (1-Oxo-2,3-diphenyl-2-methyl-6,7-dichloro-5-indanyloxy)acetic acid | O=C1C(C(C2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)C1=CC=CC=C1)(C)C1=CC=CC=C1 | C24H18Cl2O4
